US07737166B2
N-(5-Cyano-2-fluoro-4-methoxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide (I-237)
5-Amino-6-fluoro-4-methoxy-2-methylbiphenyl-3-carbonitrile (I-236) (300 mg, 1.17 mmol) was dissolved in pyridine (3 ml), and under nitrogen atmosphere at 0° C., pivaloyl chloride (433 μl, 3.51 mmol) was dropwise added. After stirring at roam temperature for 20 hours, aqueous 1 M hydrochloric acid solution was added to the reaction liquid at 0° C. The solution was extracted twice with ethyl acetate. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate.

reactant | 5-Amino-6-fluoro-4-methoxy-2-methylbiphenyl-3-carbonitrile | 1.17 mmol, 300 mg | NC=1C(=C(C(=C(C1F)C1=CC=CC=C1)C)C#N)OC | C15H13FN2O
reactant | pivaloyl chloride | 3.51 mmol, 433 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-Cyano-2-fluoro-4-methoxy-6-methylbiphenyl-3-yl)-2,2-dimethylpropionamide | C(#N)C=1C(=C(C(=C(C1C)C1=CC=CC=C1)F)NC(C(C)(C)C)=O)OC | C20H21FN2O2
